US07053214B2
Synthesis of tert-Butyl 4-(aminomethyl)benzylcarbamate (27)
A solution of t-Boc2O (1.6 g, 7.34 mmol) in DCM (30 mL) was added dropwise over 45 minutes to a stirring solution of 1,4-bis(aminomethyl)xylene (2.0 g, 14.7 mmol) and TEA (5 mL, 36.7 mmol) in 50 mL of DCM. After stirring for 4 h, the reaction was diluted with water and extracted thrice with 75 mL each of DCM. The combined extracts were washed with water, 5% citric acid, brine, dried (Na2SO4) and concentrated, to give a white solid 0.73 g (27) (42%). 1H NMR (500 MHz, CD3OD) δ 7.26 (m, 5H), 4.83 (br s, 1H), 4.29 (m, 2H), 3.85 (s, 2H), 1.46 (s, 9H); MS (AP+) m/z 237.4 (M+H+).

reactant | t-Boc2O | 7.34 mmol, 1.6 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
reactant | 1,4-bis(aminomethyl)xylene | 14.7 mmol, 2.0 g | NCC1(C(C=C(C=C1)CN)C)C | C10H18N2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | tert-Butyl 4-(aminomethyl)benzylcarbamate | 0.73 g, 42% | NCC1=CC=C(CNC(OC(C)(C)C)=O)C=C1 | C13H20N2O2
